US06743789B2
8-Chloro-5-(2,4-dimethoxy-benzyl)-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carbonitrile
8-Chloro-5-(2,4-dimethoxy-benzyl)-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid amide (5.9 g, 13.8 mmol) and phosphorous oxychloride (1.4 mL, 15.2 mmol) were mixed in dioxane (55 mL) and refluxed overnight. The resulting yellow solution was evaporated and the residue purified by chromatography on silica gel in CH2Cl2/acetone 20:1. One obtained a white foam (3.5 g, 61%). m/z 408 (MH+)

reactant | 8-Chloro-5-(2,4-dimethoxy-benzyl)-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid amide | 13.8 mmol, 5.9 g | ClC1=CC2=C(N3C=NC(=C3CN(C2=O)CC2=C(C=C(C=C2)OC)OC)C(=O)N)C=C1 | C21H19ClN4O4
reactant | phosphorous oxychloride | 15.2 mmol, 1.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 55 mL | O1CCOCC1 | C4H8O2
product | 8-Chloro-5-(2,4-dimethoxy-benzyl)-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carbonitrile | 3.5 g, 61% | ClC1=CC2=C(N3C=NC(=C3CN(C2=O)CC2=C(C=C(C=C2)OC)OC)C#N)C=C1 | C21H17ClN4O3
